US07615549B2
(a) 4-(4-amino-3-fluoro-phenyl)-morpholin-3-one
2.0 g (8.4 mmol) 2-fluoro-4-iodo-aniline, 860 mg (8.5 mmol) morpholin-3-one, 162 mg (0.86 mmol) copper(I)iodide, 2.33 g (16.86 mmol) potassium carbonate and 91 μl N,N′-dimethylethylenediamine are suspended in 18 ml of toluene under an argon atmosphere and stirred for two hours in a microwave at a power of 35 Watts at 140° C. Water is added and the mixture is extracted three times with ethyl acetate. The combined organic phases are dried over sodium sulphate and evaporated to dryness. The residue is purified by chromatography on silica gel (eluant: dichloromethane/methanol 50:1).

reactant | 2-fluoro-4-iodo-aniline | 8.4 mmol, 2.0 g | FC1=C(N)C=CC(=C1)I | C6H5FIN
reactant | morpholin-3-one | 8.5 mmol, 860 mg | N1C(COCC1)=O | C4H7NO2
reactant | potassium carbonate | 16.86 mmol, 2.33 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N′-dimethylethylenediamine | 91 μl | CNCCNC | C4H12N2
solvent | toluene | 18 ml | C1(=CC=CC=C1)C | C7H8
catalyst | copper(I)iodide | 0.86 mmol, 162 mg | [Cu]I
solvent | Water | O | H2O
product | 4-(4-amino-3-fluoro-phenyl)-morpholin-3-one | NC1=C(C=C(C=C1)N1C(COCC1)=O)F | C10H11FN2O2
